US09120788B2
Step 3. Synthesis of 3-(4-cyano-3-fluorophenyl)-N-cyclopropyl-3H-imidazo[4,5-b]pyridine-2-carboxamide (7)
To a mixture of 4-[(3-aminopyridin-2-yl)amino]-2-fluorobenzonitrile (C15) (3.9 g, 17 mmol) and ethyl(cyclopropylamino)(oxo)acetate (P1) (4.03 g, 25.6 mmol) in 1-methylpyrrolidin-2-one (17 mL) was added potassium tert-butoxide (2.88 g, 25.7 mmol). The reaction mixture was stirred at 120° C. for 30 minutes, cooled to room temperature, and treated with 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphinane 2,4,6-trioxide (T3P) (˜50% weight solution, 20.3 mL, 32 mmol). After the reaction mixture had been stirred at 120° C. for 18 hours, it was allowed to cool. Water (10 mL) was added and stirring was continued for 10 minutes. Saturated aqueous sodium bicarbonate solution (20 mL) was introduced, and the mixture was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with saturated aqueous sodium chloride solution, filtered, and concentrated in vacuo Silica gel chromatography (Gradient: 10% to 50% ethyl acetate in petroleum ether) afforded the product as a white solid. Yield: 2.29 g, 7.13 mmol, 42%. LCMS m/z 322.2 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.50 (dd, J=4.7, 1.4 Hz, 1H), 8.17 (dd, J=8.2, 1.5 Hz, 1H), 7.79-7.85 (m, 1H), 7.69 (br s, 1H), 7.38-7.45 (m, 3H), 2.83-2.90 (m, 1H), 0.87-0.93 (m, 2H), 0.68-0.73 (m, 2H).

reactant | 4-[(3-aminopyridin-2-yl)amino]-2-fluorobenzonitrile | 17 mmol, 3.9 g | NC=1C(=NC=CC1)NC1=CC(=C(C#N)C=C1)F | C12H9FN4
reactant | ethyl(cyclopropylamino)(oxo)acetate | 25.6 mmol, 4.03 g | C(C)OC(C(=O)NC1CC1)=O | C7H11NO3
reactant | potassium tert-butoxide | 25.7 mmol, 2.88 g | CC(C)([O-])C.[K+]
reactant | 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphinane 2,4,6-trioxide | 32 mmol, 20.3 mL | C(CC)P1(OP(OP(O1)(CCC)=O)(CCC)=O)=O | C9H21O6P3
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | 1-methylpyrrolidin-2-one | 17 mL | CN1C(CCC1)=O | C5H9NO
solvent | Water | 10 mL | O | H2O
product | 3-(4-cyano-3-fluorophenyl)-N-cyclopropyl-3H-imidazo[4,5-b]pyridine-2-carboxamide | C(#N)C1=C(C=C(C=C1)N1C(=NC=2C1=NC=CC2)C(=O)NC2CC2)F | C17H12FN5O
